Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Percocet
 
Attending: ___.
 
Chief Complaint:
Melena
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ year old female with a history of MI, PVD, 
mesenteric ischemia s/p SMA bypass, most recently s/p exlap and 
SMA thrombectomy on Coumadin who is presenting with dark stools, 
lightheadedness and shortness of breath found to have an INR of 
8.5 and Hgb 6.1.

Per patient, she was called today and notified that her INR was 
8.5. Patient denies chest pain. She states that for the past 
week she has noticed dark stools, but denies blood. She also 
endorses a lightheadedness after she stands up as well as a 
dyspnea on exertion for the past 2 days. She denies fevers, 
chills, but endorses a recent upper respiratory illness.

Patient was tearful about admission in the ED and wanted to 
leave against medical advice. She was advised that her blood was 
thin and blood counts were low, would be very dangerous to leave 
hospital. After discussion patient agreed to stay. Patient well 
appearing, asymptomatic, HDS.  

In the ED, initial VS were 98.4 71 101/52 18 100% RA .  

Exam notable for:  
Lungs clear to auscultation, no lower extremity edema, brown 
guaiac positive stool  

Imaging showed No acute cardiopulmonary abnormalities.

The patient initially had an INR of 7.8 and hemoglobin of 6.1.  
She received 10 mg IV vitamin K.  She received 3 units of PRBCs. 
 On recheck her INR was 1.7 and her hemoglobin trended up to 
8.9.  She was also given IV pantoprazole. GI was consulted, and 
they recommended inpatient versus outpatient colonscopy pending 
clinical course(ie not responding to transfusions, or continued 
melena). Vascular surgery recommended: continuation of aspirin 
and statin and resumption of warfarin when stable. 

Upon arrival to the floor, patient reports that she is feeling 
better and would like to eat. Her last episode of bloody bowel 
movements was earlier this AM. She shares that intermittently 
her INR will become low, and she will be called to increase her 
dose, which happened recently (most recently 3 mg 4x/week, 6 mg 
3x/week). She uses a pill box to keep track of her warfarin. She 
denies any new medications or dietary changes recently.
Of note, patient does report history of easy bleeding including 
gingival bleeding, also has had heavy periods such that she 
required hysterectomy. Unclear if she had ever been evaluated 
for bleeding/clotting disorders in past. 

 
Past Medical History:
– Coronary artery disease (per OMR had myocardial infarction in 
___ without intervention)
– Peripheral arterial disease with ___ angioplasty and stent in 
___, repeat angioplasty and stenting of the ___ as well as 
angioplasty and stenting of the SMA with ex lap and small bowel 
resection in ___, balloon angioplasty of SMA stent in ___, 
aorto-celiac/SMA bypass later in ___, ex lap with LOA and 
thrombectomy of SMA bypass with saphenous vein patch of SMA 
bypass in ___
– Ischemic colitis / Mesenteric ischemia
– Cholecystitis status post percutaneous cholecystostomy tube
– Hysterectomy
- COPD

 
Social History:
___
Family History:
Brother and mother with DM. 
 
Physical Exam:
PHYSICAL EXAM ON ADMISSION:
===========================
Vitals: 98.3 116/62 70 18 97% RA 
General: Alert, oriented, no acute distress, pale appearing  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, 2+ pulses, no clubbing, cyanosis or edema  
Neuro: CNs2-12 intact, motor function grossly normal  

PHYSICAL EXAM ON DISCHARGE:
===========================
Vitals: 98.5 113/64 66 18 98% RA
General: Alert, oriented, no acute distress, pale appearing  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: Supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, 2+ pulses, no clubbing, cyanosis or edema  
Neuro: CNs2-12 intact, motor function grossly normal  
 
Pertinent Results:
LAB RESULTS ON ADMISSION:
=========================
___ 12:28PM BLOOD WBC-5.0 RBC-2.21* Hgb-6.1* Hct-20.3* 
MCV-92# MCH-27.6# MCHC-30.0* RDW-21.6* RDWSD-72.0* Plt ___
___ 12:28PM BLOOD Neuts-57.0 ___ Monos-9.7 Eos-0.6* 
Baso-0.2 NRBC-0.4* Im ___ AbsNeut-2.82 AbsLymp-1.58 
AbsMono-0.48 AbsEos-0.03* AbsBaso-0.01
___ 12:28PM BLOOD ___ PTT-59.1* ___
___ 12:28PM BLOOD Glucose-133* UreaN-12 Creat-0.6 Na-139 
K-3.7 Cl-106 HCO3-22 AnGap-15
___ 12:28PM BLOOD cTropnT-<0.01
___ 07:35AM BLOOD Calcium-7.9* Phos-3.6 Mg-2.0

LAB RESULTS ON DISCHARGE:
=========================
___ 07:35AM BLOOD WBC-4.6 RBC-3.13* Hgb-8.9* Hct-27.3* 
MCV-87 MCH-28.4 MCHC-32.6 RDW-20.3* RDWSD-62.1* Plt ___
___ 07:35AM BLOOD ___ PTT-24.9* ___
___ 07:35AM BLOOD Glucose-87 UreaN-10 Creat-0.6 Na-143 
K-3.7 Cl-111* HCO3-23 AnGap-13
___ 07:35AM BLOOD Calcium-7.9* Phos-3.6 Mg-2.0

IMAGING:
========
___ CXR: No acute cardiopulmonary abnormalities. 

 
Brief Hospital Course:
Ms. ___ is a ___ year old lady with history of MI, peripheral 
vascular disease, recurrent mesenteric ischemia s/p SMA bypass, 
most recently s/p ex-lap and SMA thrombectomy (___) on warfarin 
who presented with melena, lightheadedness, and shortness of 
breath in setting of acute blood loss anemia and 
supratherapeutic INR.

# Acute blood loss anemia
# Melena
Admission Hgb 6.1 in setting of INR 7.8. She received 10 mg IV 
vitamin K as well as total of 3u pRBC and IV pantoprazole. She 
was seen by GI who recommended consideration of inpatient versus 
outpatient colonoscopy pending clinical course (i.e., inpatient 
scope if not responding to transfusions or continued melena). 
She was also seen by our vascular surgery team given history of 
mesenteric ischemia who recommended aspirin, statin, as well as 
resumption of warfarin when safe to do so, follow up with Dr. 
___. 
After admission, her H/H and BP were monitored closely, and she 
remained hemodynamically stable and H/H stable. She had no 
further episodes of melena. Warfarin was held until day of 
discharge, management as below. On discharge Hgb 8.9. She will 
require recheck CBC on ___ to ensure stable. 

# Supratherapeutic INR
Admission INR of 7.8, possible contributing factor of recent 
corticosteroid use in setting of URI; there is some literature 
to support interaction between predisone and warfarin ___ 
Pharmacother. ___;40(12):2101-6). Otherwise patient denies 
any change in vitamin K intake/diet changes, and shares that she 
uses a pill box to keep track of her warfarin dosing. 

Per patient she notes occasional episodes of low INR requiring 
dose adjustments which is occasionally confusing, but she uses a 
pill box to keep track of her medications and reports that she 
has been taking her warfarin as instructed. No recent changes in 
her diet. We briefly considered whether she would be a good 
candidate for alternate anticoagulants such as the DOACs, 
although upon further questioning it appears that patient has 
had easy gum bleeding as well as heavy menses necessitating 
hysterectomy in past, raising suspicion for possible bleeding 
disorder such as vWD and overall would prefer reversible agent. 
We did not send any testing while in house as she had received 
transfusions and was recently on anticoagulation, but can 
consider as outpatient. We opted to restart her on warfarin at 3 
mg daily which per patient was prior home dose. Discharge INR 
was 1.1. She will require recheck INR on ___. 

# History of recurrent mesenteric ischemia: As above, seen by 
vascular surgery while in house, recommended aspirin, statin, 
and restarting warfarin. Of note, patient was not on aspirin or 
statin at home despite history of PVD, recurrent mesenteric 
ischemia, and report of MI. 

# CAD: Started atorvastatin 40 mg daily, aspirin 81 mg daily. 
Patient is not on betablocker, consider as outpatient. 

TRANSITIONAL ISSUES:
====================
- Discharge Hgb 8.9, discharge INR 1.1
[] Discharged on warfarin 3 mg daily, please recheck CBC and INR 
on ___ and adjust warfarin dose as needed
- Started aspirin 81 mg daily and atorvastatin 40 mg daily given 
history of recurrent mesenteric ischemia, PVD, and CAD; patient 
did not report any adverse reactions to these in past, unclear 
why stopped
[] Consider further work up of ?bleeding disorder as outpatient 
given report of heavy menses, gum bleeding
[] Consider beta blocker as outpatient given reported history of 
CAD s/p MI

# Contact: ___ (Daughter) ___
# Code: Full

Greater than 30 minutes spent in care coordination and 
counseling on the day of discharge. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Warfarin Dose per patient 3 mg 4x/week, 6 mg 3x/week
 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0 
2.  Atorvastatin 40 mg PO QPM 
RX *atorvastatin 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0 
3.  Warfarin 3 mg PO DAILY16 
RX *warfarin [Coumadin] 3 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
4.Outpatient Lab Work
Please redraw: CBC, ___ on ___
Fax to:  ___ ___
ICD-10: K55.9

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS:
==================
Acute blood loss anemia
Supratherapeutic INR

SECONDARY DIAGNOSIS:
====================
History of mesenteric ischemia s/p multiple interventions 
Peripheral vascular disease
Reported history of MI

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___!

You came to us because of black stools concerning for bleeding 
from your gastrointestinal tract in the setting of a 
supratherapeutic INR. 
We do not have a definite answer as to why your INR was high 
prior to coming in, although you did report taking prednisone, 
which can sometimes interact with warfarin. 
While you were here, we supported you with blood transfusions 
and held your home warfarin. We also monitored your blood counts 
closely. Our GI doctors and our ___ surgeons evaluated you, 
and it was thought that you did not need an endoscopy as an 
inpatient as you responded well to transfusions, and your stools 
were no longer black. 

We considered whether warfarin was the best medication for you 
as you reported occasional fluctuations in your INR 
necessitating changes in dosing, and some complexity in 
management (as you would be on alternate day dosing). However, 
at the same time, you reported that when you were younger you 
had issues with heavy bleeding necessitating hysterectomy as 
well as prolonged bleeding from your gums, hence we would prefer 
an agent that can be reversed easily. Overall, we think that you 
may benefit from testing for bleeding disorders, however we were 
unable to do this in the hospital because you received 
transfusions and the results would be difficult to interpret. As 
you have the utmost confidence in your primary care doctor, we 
shall leave this decision up to him and you. You will need 
recheck labs to be drawn on ___ to make sure things are going 
in the right direction.

We also noticed that you were not on an aspirin or a statin 
despite your reported history of a heart attack, peripheral 
vascular disease, and recurrent episodes of mesenteric ischemia. 
We and the vascular surgeons think that you would benefit from 
an aspirin and statin, hence we restarted these at discharge.

Please take care, we wish you the very best!

Sincerely,
Your ___ Care Team

 
Followup Instructions:
___